US07659268B2
N-(6-Chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (110 mg, 0.300 mmol) was dissolved in 3 mL of 1,2-dimethoxyethane (DME) in a microwave reactor tube. Cyclohexenylboronic acid (49.1 mg, 0.390 mmol), 0.4 mL of an aqueous 2 M potassium carbonate solution, and tetrakis(triphenylphospine)palladium(0) (Pd(PPh3)4, 17 mg, 0.015 mmol) were added and the reaction mixture was heated at 120° C. in a microwave reactor for 20 minutes. The resulting material was cooled to room temperature, filtered, and the layers were separated. The organic layer was evaporated to dryness and the residue was purified on silica gel utilizing a gradient of 0-30% ethyl acetate in hexanes to yield N-(6-cyclo-hexenyl-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamide. ESI-MS m/z calc. 412.2, found; 413.0 (M+1)+. Retention time 1.79 minutes.

reactant | N-(6-Chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.300 mmol, 110 mg | ClC1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C | C17H13ClF2N2O3
reactant | Cyclohexenylboronic acid | 0.390 mmol, 49.1 mg | C1(=CCCCC1)B(O)O | C6H11BO2
reactant | potassium carbonate | 2 M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.015 mmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(6-cyclo-hexenyl-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamide | C1(=CCCCC1)C1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C | C23H22F2N2O3
